US08871788B2
6-Chloro-2-(tetrahydro-pyran-4-yl)-3,4-dihydro-2H-isoquinolin-1-one
A round bottomed flask was charged with p-toluenesulfonyl chloride (1.85 g, 9.7 mmol, 2.2 equiv.) and 40 mL of DCM. The solution was cooled to an ice-water bath and evacuated and purged with nitrogen. To this solution was added a solution of 4-chloro-2-(2-hydroxy-ethyl)-N-(tetrahydro-pyran-4-yl)-benzamide (1.25 g, 4.4 mmol, 1 equiv.) in 40 mL of DCM, followed by triethylamine (1.5 ml, 11 mmol, 2.5 equiv.) and a few crystals of DMAP. The solution was stirred under nitrogen overnight from 0° C. to rt. TLC (5% MeOH in DCM for SM) showed the reaction was almost complete. LC/MS: 266 at 2.050 min; SM of 284 at 2.35 min. The reaction was quenched by addition of 1.6 g of polymer-supported ethyleneamine and stirred for 30 min. The reaction solution was filtered through a Celite pad, rinsed with DCM and concentrated to dryness. The residue was re-dissolved in 30 mL of DCM, washed with 10 mL of NaHCO3 aq. The aqueous layer was extracted with DCM (3×5 mL). The combined organic solutions were washed with brine (5 mL), dried (K2CO3), filtered and concentrated. The crude product was purified on a 50-g silica gel column, eluted with 2.5% 7N NH3 of MeOH in DCM to get 110 mg (10% yield) of the title compound as a light yellow solid.

reactant | p-toluenesulfonyl chloride | 9.7 mmol, 1.85 g, 2.2 equiv. | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 4-chloro-2-(2-hydroxy-ethyl)-N-(tetrahydro-pyran-4-yl)-benzamide | 4.4 mmol, 1.25 g, 1 equiv. | ClC1=CC(=C(C(=O)NC2CCOCC2)C=C1)CCO | C14H18ClNO3
reactant | triethylamine | 11 mmol, 1.5 ml, 2.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | MeOH | CO | CH4O
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 6-Chloro-2-(tetrahydro-pyran-4-yl)-3,4-dihydro-2H-isoquinolin-1-one | 110 mg, 10% yield | ClC=1C=C2CCN(C(C2=CC1)=O)C1CCOCC1 | C14H16ClNO2
